US03988373
To a solution of 1-[1-methyl-3-(2,6,6-trimethyl-2-cyclohexenyl)-2(trans)-propenyl]piperidine (3.0 g) in a small amount of absolute methanol was added methyliodide (2.1 g) under cooling, and the reaction mixture was allowed to stand over night. The solvent of the reaction mixture was distilled off under reduced pressure, and the residue was dissolved in dil. hydrochloric acid. The aqueous solution was washed with ether, and then adjusted to an alkalinity by adding sodium bicarbonate. The aqueous solution was extracted with chloroform, and the chloroform layer was washed with water. After drying the chloroform layer, the solvent was distilled off under reduced pressure. The residue was dissolved in methanol and thereto was added ether, and then the mixture was allowed to stand under cooling. Precipitated crystals were gathered by filtration and recrystallized from a mixed solvent of methanol and ether to give crystals (1.3 g) of 1-methyl-1-[1-methyl-3-(2,6,6-trimethyl-2-cyclohexenyl)-2(trans)-propenyl]piperidinium iodide, m.p. 156°-158° C.

reactant | 1-[1-methyl-3-(2,6,6-trimethyl-2-cyclohexenyl)-2(trans)-propenyl]piperidine | 3.0 g | CC(\C=C\C1C(=CCCC1(C)C)C)N1CCCCC1 | C18H31N
reactant | methyliodide | 2.1 g | CI | CH3I
solvent | methanol | CO | CH4O
product | 1-methyl-1-[1-methyl-3-(2,6,6-trimethyl-2-cyclohexenyl)-2(trans)-propenyl]piperidinium iodide | 1.3 g | [I-].C[N+]1(CCCCC1)C(\C=C\C1C(=CCCC1(C)C)C)C | InChI=1S/C19H34N.HI/c1-16-10-9-13-19(3,4)18(16)12-11-17(2)20(5)14-7-6-8-15-20;/h10-12,17-18H,6-9,13-15H2,1-5H3;1H/q+1;/p-1/b12-11+;
